US08461153B2
To a stirred solution of (Z)-7-chloro-3-(3,4-diethylbenzyl)-5-(4-fluorophenyl)-1-methyl-1H-benzo[e][1,4]diazepin-2(3H)-one (0.1 g, 0.18 mmol) in anisole (3 mL) was added aluminum chloride (0.144 g, 1.08 mmol). The mixture was heated at 85° C. for 1 hour, cooled to ambient temperature and poured into a mixture of ice/water (10 mL) and ethyl acetate (20 mL) and stirred vigorously for 10 min. The layers were separated and the organic phase was dried over sodium sulfate, filtered, and then concentrated. The residue was purified by chromatography (silica gel, 95:5 CH2Cl2:MeOH) to provide an oil which was dissolved in a mixture of acetonitrile (3 mL) and water (1 mL). This solution was freeze-dried overnight to give (Z)-7-chloro-3-(3,4-diethylbenzyl)-5-(4-fluorophenyl)-1H-benzo[e][1,4]diazepin-2(3H)-one as an off-white solid: mp 88-90° C.; 1H NMR (300 MHz, DMSO-d6) δ 10.71 (s, 1H), 7.64 (dd, J=8.8, 2.5 Hz, 1H), 7.49 (t, J=5.6 Hz, 2H), 7.30-7.23 (m, 4H), 7.13-7.01 (m, 3H), 3.65 (t, J=5.5 Hz, 1H), 3.32-3.31 (m, 2H), 2.56 (quintet, J=7.3 Hz, 4H), 1.13 (q, J=7.2 Hz, 6H); APCI MS m/z 435 [M+H+].

reactant | (Z)-7-chloro-3-(3,4-diethylbenzyl)-5-(4-fluorophenyl)-1-methyl-1H-benzo[e][1,4]diazepin-2(3H)-one | 0.18 mmol, 0.1 g | ClC1=CC\2=C(N(C(C(\N=C2\C2=CC=C(C=C2)F)CC2=CC(=C(C=C2)CC)CC)=O)C)C=C1 | C27H26ClFN2O
reactant | aluminum chloride | 1.08 mmol, 0.144 g | [Cl-].[Al+3].[Cl-].[Cl-]
reactant | ethyl acetate | 20 mL | C(C)(=O)OCC | C4H8O2
solvent | anisole | 3 mL | C1(=CC=CC=C1)OC | C7H8O
solvent | acetonitrile | 3 mL | C(C)#N | C2H3N
solvent | water | 1 mL | O | H2O
product | (Z)-7-chloro-3-(3,4-diethylbenzyl)-5-(4-fluorophenyl)-1H-benzo[e][1,4]diazepin-2(3H)-one | ClC1=CC\2=C(NC(C(\N=C2\C2=CC=C(C=C2)F)CC2=CC(=C(C=C2)CC)CC)=O)C=C1 | C26H24ClFN2O
